US06369070B1
N-(5-Methylisoxaz-3-oyl)-3-Nitrobenzylamine
A solution containing 500 mg (2.65 mmol) of 3-nitrobenzylamine in 20 mL of dichloromethane was stirred at room temperature as 463 mg (3.18 mmol) of 5-methyl-3-isoxazoyl chloride was added. To this solution was added 0.92 mL (6.62 mmol) of triethylamine. The reaction was stirred an additional 1 hour at room temperature, diluted with 75 mL of ethyl acetate and the organic phase washed with 1N aqueous hydrochloric acid (twice), water (twice) and saturated aqueous sodium bicarbonate (thrice). The resulting organic solution was dried over sodium sulfate, filtered, and concentrated to give 550 mg (79%) of the title compound as a yellow solid. MS(FD) m/z 261 (M+).

reactant | 3-nitrobenzylamine | 2.65 mmol, 500 mg | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 5-methyl-3-isoxazoyl chloride | 3.18 mmol, 463 mg | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
reactant | triethylamine | 6.62 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-Methylisoxaz-3-oyl)-3-Nitrobenzylamine | 550 mg, 79% | CC1=CC(=NO1)C(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H11N3O4
